US04487945
(±)-4-Methyl-1-(1-methyl-1-(methylthio)ethyl)-3-cyclohexen-1-ol
To a stirred solution of 15.2 g of 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene in 100 ml of N,N-dimethylacetamide was added 4.4 g of 60% sodium hydride. The mixture was cooled to 5°-10° C. and saturated with methyl mercaptan. Stirring was continued while heating the reaction mixture to 100° C. over a two and one-half hour period. After an additional hour at 100° C., the reaction mixture was poured into water and extracted twice with n-pentane. The combined extracts were washed with water, dried and Claisen-distilled to give 15.8 g of the desired product, b.p. 83°-85° C. (0.2 mm).

reactant | 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene | 15.2 g | CC1(OC12CC=C(CC2)C)C | C10H16O
reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | methyl mercaptan | CS | CH4S
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
product | (±)-4-Methyl-1-(1-methyl-1-(methylthio)ethyl)-3-cyclohexen-1-ol | 15.8 g | CC1=CCC(CC1)(O)C(C)(SC)C | C11H20OS
